US07820848B2
20 g of 1-(1-acetoxyethyl)-3,5-diacetoxy-benzene (71 mmol) were dissolved in 20 ml toluene and placed into a feed vessel connected to a pyrolytic tube filled with Raschig rings. The tube was heated to 500° C. and the neat mixture was immediately added. Conversion of the alcohol was achieved within two minutes. The column was rinsed with toluene. Work-up was conducted by extracting the crude material in toluene twice with 200 ml water. The aqueous solutions were reextracted with toluene, the organic layers were combined, dried over magnesium sulfate and the solvent removed under reduced pressure giving 6.6 g 3,5-diacetoxystyrene (42%).

reactant | 1-(1-acetoxyethyl)-3,5-diacetoxy-benzene | 71 mmol, 20 g | C(C)(=O)OC(C)C1=CC(=CC(=C1)OC(C)=O)OC(C)=O | C14H16O6
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 3,5-diacetoxystyrene | 6.6 g, 42% | C(C)(=O)OC=1C=C(C=C)C=C(C1)OC(C)=O | C12H12O4
